US04416879
To a suspension of 7-aminocephalosporanic acid (0.35 g) and 1-(2-propynyl)-1H-tetrazole-5-thiol (0.20 g) in acetonitril (1.8 ml) was added boron trifluoride etherate (0.55 g) at room temperature and the resulting mixture was stirred for 1.5 hours at 47° C. To the reaction mixture was added water (1.8 ml) and the mixture was adjusted to pH 3.5 with conc. aqueous ammonia under ice-cooling. The precipitates were collected by filtration, washed successively with water and acetone and then dried to give 7-amino-3-[1-(2-propynyl)-1H-tetrazole-5-yl]thiomethyl-3-cephem-4-carboxylic acid (0.36 g).

reactant | 7-aminocephalosporanic acid | 0.35 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-(2-propynyl)-1H-tetrazole-5-thiol | 0.20 g | C(C#C)N1N=NN=C1S | C4H4N4S
reactant | boron trifluoride etherate | 0.55 g | B(F)(F)F.CCOCC
reactant | ammonia | N | H3N
solvent | acetonitril | 1.8 ml | C(C)#N | C2H3N
solvent | water | 1.8 ml | O | H2O
product | 7-amino-3-[1-(2-propynyl)-1H-tetrazole-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 0.36 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)O)C1=O | C12H12N6O3S2
